US09034866B2
Synthesis of (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxamide
Similar to as described in General Procedure G, ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxylate was reacted with (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one to give a diasteromeric mixture of (R)-ethyl 9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxylate. Following aminolysis of the ethyl ester (similar to as described in General Procedure M) the titled compound was obtained after purification by prep HPLC

reactant | ethyl 9-bromo-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxylate | BrC1=CC2=C(OCC3(OCCO3)C3=C2N=C(S3)C(=O)OCC)C=C1 | C16H14BrNO5S
reactant | (R)-3-ethynyl-3-hydroxy-1-methylpyrrolidin-2-one | C(#C)[C@]1(C(N(CC1)C)=O)O | C7H9NO2
reactant | (R)-ethyl 9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxylate | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(OCC3(OCCO3)C3=C2N=C(S3)C(=O)OCC)C=C1 | C23H22N2O7S
product | (R)-9-((3-hydroxy-1-methyl-2-oxopyrrolidin-3-yl)ethynyl)-5H-spiro[benzo[2,3]oxepino[4,5-d]thiazole-4,2′-[1,3]dioxolane]-2-carboxamide | O[C@@]1(C(N(CC1)C)=O)C#CC1=CC2=C(OCC3(OCCO3)C3=C2N=C(S3)C(=O)N)C=C1 | C21H19N3O6S
